US09212192B2
N,N-dibenzyl-4-bromo-2-fluoro-5-methylbenzenamine
A suspension of 4-bromo-2-fluoro-5-methylbenzenamine (1 g, 4.9 mmol), (bromomethyl)benzene (2.5 g, 14.7 mmol) and potassium carbonate (2 g, 14.7 mmol) in acetonitrile (80 mL) was heated in a sealed tube at 100° C. for 16 hours. After concentration, the residue was diluted with ethyl acetate (80 mL), washed with water (20 mL), dried over anhydrous sodium sulfate filtered, and concentrated. The residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 50/1 petroleum ether/ethyl acetate to give the title compound. MS: 384 (M+H+).

reactant | 4-bromo-2-fluoro-5-methylbenzenamine | 4.9 mmol, 1 g | BrC1=CC(=C(C=C1C)N)F | C7H7BrFN
reactant | (bromomethyl)benzene | 14.7 mmol, 2.5 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | potassium carbonate | 14.7 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | N,N-dibenzyl-4-bromo-2-fluoro-5-methylbenzenamine | C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)C)Br)F)CC1=CC=CC=C1 | C21H19BrFN
